US08138194B2
4-Chloro-5,6-diphenylfuro[2,3-d]pyrimidine (0.10 g) and 4-(aminomethyl)aniline (0.05 g) in n-butanol (5 mL) were heated at 80° C. for 16 h. The reaction mixture was concentrated and the residue was partitioned between water and ethyl acetate. The organic layer was concentrated and the residue was purified by silica gel column chromatography using a mixture of dichloromethane:methanol (40:1), to give N-(4-aminobenzyl)-5,6-diphenylfuro[2,3-d]pyrimidin-4-amine (0.09 g, 70%). 1H NMR (300 MHz, CDCl3): δ 8.44 (s, 1H), 7.54-7.44 (m, 8H), 7.27-7.25 (m, 2H), 6.93 (d, 2H), 6.10 (d, 2H), 4.87 (t, 1H), 4.51 (d, 2H), 3.65 (brs, 2H). LC-MS (ESI) m/z 393.7 (M+H).

reactant | 4-Chloro-5,6-diphenylfuro[2,3-d]pyrimidine | 0.10 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=CC=C2 | C18H11ClN2O
reactant | 4-(aminomethyl)aniline | 0.05 g | NCC1=CC=C(N)C=C1 | C7H10N2
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | N-(4-aminobenzyl)-5,6-diphenylfuro[2,3-d]pyrimidin-4-amine | 0.09 g, 70% | NC1=CC=C(CNC=2C3=C(N=CN2)OC(=C3C3=CC=CC=C3)C3=CC=CC=C3)C=C1 | C25H20N4O
